US05686486
1-(4-Methylphenyl)-butan-1-ol
To a flame-dried flask under an argon atmosphere is added 0.59 mL of commercially available p-tolualdehyde and charged with 15 mL of tetrahydrofuran. The solution is cooled to 0° C. and is treated with 3.0 mL (2.0M in diethyl ether) of propylmagnesium bromide. The reaction mixture is left to warm to room temperature overnight and then quenched by the addition of aqueous ammonium chloride. After dilution with diethyl ether the phases are separated; the organic layer is washed with saturated ammonium chloride, brine, dried (magnesium sulfate) and finally concentrated under reduced pressure. The residue is flash column chromatographed using 20% to 30% diethyl ether in hexane to yield 980 mg of the title product as a clear, colorless oil.

reactant | p-tolualdehyde | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | propylmagnesium bromide | 2.0M, 3.0 mL | C(CC)[Mg]Br
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 1-(4-Methylphenyl)-butan-1-ol | 980 mg | CC1=CC=C(C=C1)C(CCC)O | C11H16O
